US07576115B2
1) Synthesis of 1-[5-(4-n-hexylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (16.1 mmol, 1.62 g) and (4-n-hexylphenyl)(oxo)acetaldehyde (16 mmol, 4.57 g) synthesized in Reference Synthetic Example 14 were dissolved in acetic acid (35 mL) and stirred at 100° C. for 6 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1), then by silica gel thin layer chromatography (chloroform) and by silica gel thin layer chromatography (n-hexane/ethyl acetate=7/2) to give the desired product as a brown solid (308 mg, yield 6%).

reactant | 2-Oxopropanal methylhydrazone | 16.1 mmol, 1.62 g | CNN=CC(C)=O | C4H8N2O
reactant | (4-n-hexylphenyl)(oxo)acetaldehyde | 16 mmol, 4.57 g | C(CCCCC)C1=CC=C(C=C1)C(C=O)=O | C14H18O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(4-n-hexylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 308 mg, yield 6% | C(CCCCC)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C18H24N2O2
